US20010003741A1
Synthesis of (1S,2S)-2-(7-oxooctanoyl)amino-3-morpholino-1-phenyl-1-propanol
A mixed solvent of methylene chloride:methanol=9:1 (20 ml), 7-oxooctanoic acid (700 mg, 4.4 mmol), triethylamine (1.40 ml, 10.0 mmol) and EDC (1.15 g, 6.0 mmol) were added to (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol (944.0 mg, 4.0 mmol), followed by stirring overnight. Methylene chloride (100 ml) was added to the reaction solution. After washed with a saturated sodium hydrogen carbonate solution (50 ml), water (50 ml) and saturated brine (50 ml) successively, the organic layer was dried over sodium sulfate and filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:ethanol=20:1) to obtain the title compound (890 mg, yield 59%) as colorless oil.

reactant | 7-oxooctanoic acid | 4.4 mmol, 700 mg | O=C(CCCCCC(=O)O)C | C8H14O3
reactant | triethylamine | 10.0 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | EDC | 6.0 mmol, 1.15 g
reactant | (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol | 4.0 mmol, 944.0 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C13H20N2O2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (1S,2S)-2-(7-oxooctanoyl)amino-3-morpholino-1-phenyl-1-propanol | 890 mg, yield 59% | O=C(CCCCCC(=O)N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1)C | C21H32N2O4
